US08648099B2
a) N′-[3-(t-Butyl-dimethyl-silanyloxy)-propyl]-N′-methyl-hydrazinecarboxylic acid t-butyl ester
3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-N-methyl-1-propanamine hydrochloride (1:1) (720 mg, 3.0 mmol) was combined with dichloromethane (30 mL) to give a colorless solution. N,N-Diisopropylethylamine (313 mg, 423 μl, 2.42 mmol) was added at 0° C. Subsequently 3-(4-cyanophenyl)-2-oxaziridinecarboxylic acid 1,1-dimethylethyl ester (542 mg, 2.2 mmol) in dichloromethane (20 mL) was added during 15 min at 0° C. and the reaction mixture was stirred for 1 h at 0° C. Afterwards the reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 20 g, 0% to 70% ethyl acetate in n-heptane) to deliver an oil contaminated with 4-cyano-benzaldehyde. This material was purified by a second chromatography (aminophase 20 g, ethyl acetate/n-heptane 1/1) to give the title compound as colorless oil.

reactant | 3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-N-methyl-1-propanamine hydrochloride | 3.0 mmol, 720 mg | Cl.CC(C)(C)[Si](OCCCNC)(C)C
reactant | N,N-Diisopropylethylamine | 2.42 mmol, 423 μl, 313 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-cyanophenyl)-2-oxaziridinecarboxylic acid 1,1-dimethylethyl ester | 2.2 mmol, 542 mg | CC(C)(C)OC(=O)N1OC1C1=CC=C(C=C1)C#N | C13H14N2O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N′-[3-(t-Butyl-dimethyl-silanyloxy)-propyl]-N′-methyl-hydrazinecarboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)NN(C)CCCO[Si](C)(C)C(C)(C)C | C15H34N2O3Si
